US08859573B2
4-(2-bromoethyl)phenyl 4-chloro-3-(trifluoromethyl)phenyl ether
To a solution of 2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethanol (300 mg, 0.947 mmol) and triphenylphosphine (300 mg, 1.144 mmol) in dichloromethane (5 mL) was added carbon tetrabromide (350 mg, 1.055 mmol) in portions. The reaction mixture was stirred at rt for 2 h, then concentrated. Purification via ISCO system afforded the title product (335 mg) as a colorless liquid.

reactant | 2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethanol | 0.947 mmol, 300 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCO)C(F)(F)F | C15H12ClF3O2
reactant | triphenylphosphine | 1.144 mmol, 300 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.055 mmol, 350 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(2-bromoethyl)phenyl 4-chloro-3-(trifluoromethyl)phenyl ether | 335 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCBr)C(F)(F)F | C15H11BrClF3O
